US07138363B2
1.0 g (approximately 60% dispersion in paraffin oil, about 25 mmol) of sodium hydride is added in portions to a mixture of 5.21 g (50 mmol) of 2-cyanopyridine and 2.39 g (25 mmol) of guanidine hydrochloride in 100 ml of dimethyl sulfoxide. Stirring is carried out for 2 hours at room temperature, and then for 23 hours at 75° C. The mixture is cooled and poured into 100 ml of ice-water and filtered, yielding 4,6-di-pyrid-2-yl-[1,3,5]triazin-2-ylamine in the form of a white solid after drying in vacuo.

reactant | sodium hydride | about 25 mmol, 1.0 g | [H-].[Na+]
reactant | 2-cyanopyridine | 50 mmol, 5.21 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | guanidine hydrochloride | 25 mmol, 2.39 g | Cl.NC(=N)N
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 4,6-di-pyrid-2-yl-[1,3,5]triazin-2-ylamine | N1=C(C=CC=C1)C1=NC(=NC(=N1)C1=NC=CC=C1)N | C13H10N6
